US03953449
7.2 G. (0.03 mol) of 2-(4-m-chlorophenyl-piperazino)-ethanol and 6.55 g. (0.04 mol) of isatoic anhydride in 125 ml. of toluene are refluxed for 3 hours. The hot toluene solution is filtered and the toluene is evaporated from the filtrate to give a residue which is taken up in ether in order to remove a small amount of unreacted isatoic anhydride, the solution is filtered and the ether is driven off. The remaining product is triturated in petroleum ether, filtered off and recrystallised twice from isopropyl alcohol to give 7.6 g. (yield = 70%) of 2-(4-m-chlorophenylpiperazino)-ethyl anthranilate, which melts at 76°C.

reactant | 2-(4-m-chlorophenyl-piperazino)-ethanol | 0.03 mol | ClC=1C=C(C=CC1)N1CCN(CC1)CCO | C12H17ClN2O
reactant | isatoic anhydride | 0.04 mol | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 2-(4-m-chlorophenylpiperazino)-ethyl anthranilate | yield = 70% | C(C=1C(N)=CC=CC1)(=O)OCCN1CCN(CC1)C1=CC(=CC=C1)Cl | C19H22ClN3O2
